US07632857B2
2-Fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid
3-Fluoro-4-carboxy-phenylboronic acid (CAS 120153-08-4)(1.0 g, 5.4 mmol) and pinacol (0.645 g, 5.4 mmol) were stirred in Toluene/EtOH (1:1) (30 ml) with heating to give a thick white slurry. The mixture was concentrated under reduced pressure, toluene (30 ml) was added and the mixture was again concentrated under reduced pressure to a white solid. LCMS(-ve ion mode) showed a single peak trace with 265 (M−H RP). The material was dried under high vacuum overnight to give 1.42 g.

reactant | 3-Fluoro-4-carboxy-phenylboronic acid | 5.4 mmol, 1.0 g | FC=1C=C(C=CC1C(=O)O)B(O)O | C7H6BFO4
reactant | pinacol | 5.4 mmol, 0.645 g | OC(C)(C)C(C)(C)O | C6H14O2
solvent | Toluene EtOH | 30 ml | C1(=CC=CC=C1)C.CCO
product | 2-Fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid | FC1=C(C(=O)O)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H16BFO4
